US04849443
5.54 g of 1-(2-propynyl)-2-trifluoromethyl-3-formyl-(1H)-indol, 120 ml of tetrahydrofuran and 20 ml of water were mixed together at +5° and 2 g of potassium borohydride were added in small fractions. The mixture was concentrated to a small volume by distillation under reduced pressure and ethyl ether was added. The organic phase was washed with salted water and concentrated to dryness by distillation under reduced pressure to obtain 5.6 g of 1-(2-propynyl)-2-trifluoromethyl-(1H)-indol-3-yl methanol melting at 90° C.

reactant | 1-(2-propynyl)-2-trifluoromethyl-3-formyl-(1H)-indol | 5.54 g | C(C#C)N1C(=C(C2=CC=CC=C12)C=O)C(F)(F)F | C13H8F3NO
reactant | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
reactant | potassium borohydride | 2 g | [BH4-].[K+]
solvent | water | 20 ml | O | H2O
product | 1-(2-propynyl)-2-trifluoromethyl-(1H)-indol-3-yl methanol | 5.6 g | C(C#C)N1C(=C(C2=CC=CC=C12)CO)C(F)(F)F | C13H10F3NO
